US06992085B2
Step A: 1-(4-Bromobutyl)-1H-indole-5-carbonitrile
The procedure is as for Example 39 using as substrate 1H-indole-5-carbonitrile and 1,4-dibromobutane.

reactant | 1H-indole-5-carbonitrile | N1C=CC2=CC(=CC=C12)C#N | C9H6N2
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 1-(4-Bromobutyl)-1H-indole-5-carbonitrile | BrCCCCN1C=CC2=CC(=CC=C12)C#N | C13H13BrN2
